US09120804B2
1-{4-[2-(3,5-dimethoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-piperazin-1-yl}-ethanone (“C51”)
N-(3,5-dimethoxyphenyl)-8-piperazin-1-yl-[1,2,4]triazolo[1,5-a]pyrazin-2-amine (synthesized as described earlier) is converted into the acetate using standard conditions.

reactant | N-(3,5-dimethoxyphenyl)-8-piperazin-1-yl-[1,2,4]triazolo[1,5-a]pyrazin-2-amine | COC=1C=C(C=C(C1)OC)NC1=NN2C(C(=NC=C2)N2CCNCC2)=N1 | C17H21N7O2
reactant | acetate | C(C)(=O)[O-]
product | 1-{4-[2-(3,5-dimethoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-piperazin-1-yl}-ethanone | COC=1C=C(C=C(C1)OC)NC1=NN2C(C(=NC=C2)N2CCN(CC2)C(C)=O)=N1 | C19H23N7O3
